US07217724B2
3-(7-Methoxy-1H-indazol-3-yl)propanoic acid
To a solution of methyl 3-(7-methoxy-1H-indazol-3-yl)-propanoate (140 mg, 0.596 mmol) in tetrahydrofuran (2 mL) is added a 6N aqueous sodium hydroxide solution (2 ml), and the mixture is stirred at room temperature overnight. The reaction solution is washed with diethyl ether, and the aqueous layer is acidified with 6N hydrochloric acid, and the mixture is extracted with diethyl ether. The organic layer is dried over anhydrous magnesium sulfate, and the solvent is evaporated under reduced pressure to give the title compound (123 mg, yield: 94%).

reactant | methyl 3-(7-methoxy-1H-indazol-3-yl)-propanoate | 0.596 mmol, 140 mg | COC=1C=CC=C2C(=NNC12)CCC(=O)OC | C12H14N2O3
reactant | sodium hydroxide | 6N, 2 ml | [OH-].[Na+]
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
product | 3-(7-Methoxy-1H-indazol-3-yl)propanoic acid | 123 mg, yield: 94% | COC=1C=CC=C2C(=NNC12)CCC(=O)O | C11H12N2O3
